### PR TITLE
[Merged by Bors] - feat: `Disjoint (a • s) t ↔ Disjoint s (a⁻¹ • t)`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/SMul.lean [hunk 1]
```diff
@@ -400,9 +400,22 @@ lemma inv_smul_set_distrib (a : α) (s : Set α) : (a • s)⁻¹ = op a⁻¹ 
...
+@[to_additive]
+lemma disjoint_smul_set_right : Disjoint s (a • t) ↔ Disjoint (a⁻¹ • s) t := by
+  simp_rw [disjoint_left]
+  exact (MulAction.surjective a).forall.trans (by simp [mem_inv_smul_set_iff])
+
 @[to_additive (attr := simp)]
-lemma smul_set_disjoint_iff : Disjoint (a • s) (a • t) ↔ Disjoint s t := by
-  simp [disjoint_iff, ← smul_set_inter]
+lemma disjoint_smul_set : Disjoint (a • s) (a • t) ↔ Disjoint s t := by
+  simp [disjoint_smul_set_left]
```
Comment (urkud) [inline Mathlib/Data/Set/Pointwise/SMul.lean:415]: Optional: use [Set.disjoint_image_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Set.disjoint_image_iff) to prove this, then get the previous two by `rw [← disjoint_smul_set (a := a⁻¹), inv_smul_smul]`.
Anyway, thanks!
bors d+

Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/SMul.lean]: Good point, that's slightly shorter

**Comment by YaelDillies** [comment]
bors merge
